US03979444
A mixture of 25 g. (0.185 mole) of the known compound p-fluorophenylacetonitrile and 86 ml. of methyl acrylate in 90 ml. of t-butyl alcohol is heated to reflux. The heat is removed and 28.1 ml. of 40% methanolic Triton B in 42 ml. of t-butyl alcohol quickly added. After about 4 hours of heating at reflux the mixture is allowed to cool and taken up in water and benzene. The organic layer is washed successively with 2.5 N hydrochloric acid, water and brine and then evaporated to dryness. The residue is distilled under vacuum, first at 40 mm. of mercury to remove methyl acrylate and then at 0.25 to 0.30 mm. to give 41 g. (72.2% yield) of dimethyl-4-cyano-4-(4-fluorophenyl)pimelate having a boiling point of 179° to 181°C. The NMR spectrum of the compound confirms its expected structure.

reactant | p-fluorophenylacetonitrile | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
solvent | t-butyl alcohol | C(C)(C)(C)O | C4H10O
product | dimethyl-4-cyano-4-(4-fluorophenyl)pimelate | 72.2% yield | COC(CCC(CCC(=O)OC)(C1=CC=C(C=C1)F)C#N)=O | C16H18FNO4
